US07700637B2
A mixture of 4-chloromethyl-5-methyl-2-phenyl-oxazole (3.0 g, 14.4 mmol), methyl 4-hydroxybenzoate (2.64 g, 17.3 mmol), and potassium carbonate (6.0 g, 43.34 mmol) in DMF is stirred at RT overnight. The mixture is then partitioned between EtOAc and water, and the organic phase is washed with brine, dried over magnesium sulfate, and concentrated under vacuum to give the crude product. The material is purified by silica gel chromatography using 15% EtOAc in hexane as the eluent to give 4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy) benzoic acid methyl ester as a white solid.

reactant | 4-chloromethyl-5-methyl-2-phenyl-oxazole | 14.4 mmol, 3.0 g | ClCC=1N=C(OC1C)C1=CC=CC=C1 | C11H10ClNO
reactant | methyl 4-hydroxybenzoate | 17.3 mmol, 2.64 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | potassium carbonate | 43.34 mmol, 6.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy) benzoic acid methyl ester | COC(C1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)=O | C19H17NO4
